US09062028B2
Step E. 2-(3-((4-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)phenoxy)ethyl methanesulfonate
To a solution of 4-(2,3-dimethylphenoxy)-1-(5-(1-(3-(2-hydroxyethoxy)benzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one (0.07 g, 0.13 mmol) in CH2Cl2 (2 mL) at 0° C. was added methanesulfonyl chloride (0.019 g, 0.17 mmol) and triethylamine (0.029 mL, 0.21 mmol) dropwise. The reaction mixture was stirred at 0° C. for 2 h and then quenched with saturated NaHCO3. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with 1 N HCl, saturated NaHCO3, and brine, dried and concentrated to afford the title compound (80 mg, 100%). LCMS, [M+H]+=618.4.

reactant | 4-(2,3-dimethylphenoxy)-1-(5-(1-(3-(2-hydroxyethoxy)benzyl)-1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | 0.13 mmol, 0.07 g | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=NN(C2)CC2=CC(=CC=C2)OCCO)C=CC=C1C | C33H37N3O4
reactant | methanesulfonyl chloride | 0.17 mmol, 0.019 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.21 mmol, 0.029 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-((4-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)-1H-pyrazol-1-yl)methyl)phenoxy)ethyl methanesulfonate | 80 mg, 100% | CS(=O)(=O)OCCOC1=CC(=CC=C1)CN1N=CC(=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C34H39N3O6S
